US04772600
2-(2-Pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
Solid N-[3-[(2-pyridinylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester (21.9 g, 0.069 mole) was heated in glass at 210°-220° C. using a heating mantle for 71/2 minutes. The residue was dissolved in methylene chloride, treated with 25.6 g of charcoal, and filtered through a Celite pad. The filtrate was evaporated to a dark residue, which was taken up in ethyl acetate and filtered to remove an insoluble brown solid. The concentrated ethyl acetate filtrate was applied to a silica gel column (400 g) and eluted with ethyl acetate. The appropriate fractions were combined and evaporated to a solid, which was placed under high vacuum for several hours. The solid residue (6.9 g) was recrystallized from ethanol-water and refrigerated overnight. The crystalline precipitate was filtered, washed with water, and dried under high vacuum at room temperature overnight to give 6.34 g of title compound (31%), mp 109°-111° C.

reactant | N-[3-[(2-pyridinylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester | 0.069 mole, 21.9 g | C(C)OC(CNC1=NC=CC=C1NC(=O)C1=NC=CC=C1)=O | C15H16N4O3
reactant | charcoal | 25.6 g | C | CH4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(2-Pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 6.34 g, 31% | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=NC=CC=C2)=O | C15H14N4O2
